US04845090
2,2,5,5-Tetramethylpyrrolidine-3-carboxylic Acid Methyl Ester
87.80 g (479 mmol) of 2,2,5,5-tetramethyl-3-pyrroline-3-carboxylic acid methyl ester is dissolved in 1,000 ml of methanol and hydrogenated in the presence of 11 g of Raney nickel at room temperature under an initial pressure of 180 bar. The mixture is removed from the catalyst by suctioning, the solution is treated with activated carbon, concentrated under vacuum, and the residue is distilled with the aid of a water-jet aspirator. The methyl ester of 2,2,5,5-tetramethylpyrrolidine-3-carboxylic acid passes over at 86°-87°/14 mm. Yield: 77.1 g (88% of theory). As per analysis by gas chromatography, the compound has a purity of 98.7%.

reactant | 2,2,5,5-tetramethyl-3-pyrroline-3-carboxylic acid methyl ester | 479 mmol, 87.80 g | COC(=O)C=1C(NC(C1)(C)C)(C)C | C10H17NO2
solvent | methanol | 1,000 ml | CO | CH4O
catalyst | Raney nickel | 11 g | [Ni] | Ni
product | 2,2,5,5-Tetramethylpyrrolidine-3-carboxylic Acid Methyl Ester | COC(=O)C1C(NC(C1)(C)C)(C)C | C10H19NO2
